US05401774
28 g. (0.141 mole) of 3,4-difluoro-α-methylcinnamic acid, 1 g. of PtO2 in 250 ml. of MeOH is hydrogenated at 45 p.s.i. until the theoretical uptake is completed. The catalyst is filtered off, and the material evaporated to one-third its volume. A 15% potassium hydroxide solution (10 ml.) is added, and the mixture refluxed for 30 minutes when it is poured into water and extracted with ether (2×100 ml.). The aqueous layer is acidified with concentrated HCl and ice. The oil which comes out is extracted into ether, the ether solution dried over MgSO4 and evaporated to leave a Mwear oil which crystallizes. 3,4-difluoro-α-methylhydrocinnamic acid, M P 55-56°, is isolated.

reactant | 3,4-difluoro-α-methylcinnamic acid | 0.141 mole | FC=1C=C(C=C(C(=O)O)C)C=CC1F | C10H8F2O2
catalyst | PtO2 | O=[Pt]=O
solvent | MeOH | CO | CH4O
product | 3,4-difluoro-α-methylhydrocinnamic acid | FC=1C=C(CC(C(=O)O)C)C=CC1F | C10H10F2O2
